US04803200
α-Phenyl-β-[(tetrahydrofuran-2-ylmethyl)amino]benzeneethanol
A mixture of trans-stilbene oxide (1.96 g, 0.010 mole) and tetrahydrofurfurylamine (3.03 g, 0.030 mole) was heated at 140° C. for 2 hrs. After standing at ambient temperature for 18 hrs, the mixture was diluted with water (150 ml). An oil separated from the solution which solidified on standing for an hour. NMR and mass spectral analyses showed stilbene oxide remaining. The solid was treated with another 3.03 g of tetrahydrofurfurylamine and the mixture heated at 140° C. for another 3 hours. The reaction mixture was treated with water (150 ml) as before to obtain 2.28 g (77%) of an off-white solid after drying under ambient conditions for 18 hours. The solid was recrystallized from toluene, m.p. 167°-168° C.

reactant | trans-stilbene oxide | 0.010 mole, 1.96 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | tetrahydrofurfurylamine | 0.030 mole, 3.03 g | C(C1CCCO1)N | C5H11NO
solvent | water | 150 ml | O | H2O
product | α-Phenyl-β-[(tetrahydrofuran-2-ylmethyl)amino]benzeneethanol | 2.28 g, 77% | C1(=CC=CC=C1)C(C(C1=CC=CC=C1)NCC1OCCC1)O | C19H23NO2
